US07074819B2
Step 8) Synthesis of 6-{4-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]phenoxy}-2-(4,4,5,5,5-pentafluoropentyl)hexanoic acid
A solution of (4,4,5,5,5-pentafluoropentyl)(4-(4-(7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl)phenyloxy)butyl)methane-1,1-dicarboxylic acid (0.19 g, 0.285 mmol) in dimethylsulfoxide (7.6 ml) was stirred at 125° C. for 3 hours. After the reaction was completed, the reaction mixture was treated with saturated NaCl solution and extracted with ethyl acetate:hexane=1:1. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to chromatography on silica gel (n-hexane:ethyl acetate=2:1) to give the title compound (0.12 g, 67.6%) as a white foamy solid.

reactant | (4,4,5,5,5-pentafluoropentyl)(4-(4-(7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl)phenyloxy)butyl)methane-1,1-dicarboxylic acid | 0.285 mmol, 0.19 g | FC(CCCC(C(=O)O)(C(=O)O)CCCCOC1=CC=C(C=C1)C1C(COC2=CC(=CC=C12)O)(C)C1=CC=C(C=C1)O)(C(F)(F)F)F | C34H35F5O8
reactant | NaCl | [Na+].[Cl-]
solvent | dimethylsulfoxide | 7.6 ml | CS(=O)C | C2H6OS
product | 6-{4-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]phenoxy}-2-(4,4,5,5,5-pentafluoropentyl)hexanoic acid | 0.12 g, 67.6% | OC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)O)C1=CC=C(OCCCCC(C(=O)O)CCCC(C(F)(F)F)(F)F)C=C1 | C33H35F5O6
